US05580883
To 1-acetyl-4-(4-nitro-2-methylphenyloxy)piperidine (11.8 g) were added conc. hydrochloric acid (15 ml), ethanol (15 ml) and water (15 ml) and the mixture was heated under reflux overnight. The reaction mixture was concentrated under reduced pressure, the residue thus obtained was washed with ethyl ether and crystals were filtered off to obtain 4-(4-nitro-2-methylphenyloxy)piperidine hydrochloride (8.3 g) as white crystals, m.p. 204°-226° C.

reactant | 1-acetyl-4-(4-nitro-2-methylphenyloxy)piperidine | 11.8 g | C(C)(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C | C14H18N2O4
reactant | hydrochloric acid | 15 ml | Cl | ClH
reactant | ethanol | 15 ml | C(C)O | C2H6O
solvent | water | 15 ml | O | H2O
product | 4-(4-nitro-2-methylphenyloxy)piperidine hydrochloride | 8.3 g | Cl.[N+](=O)([O-])C1=CC(=C(C=C1)OC1CCNCC1)C | InChI=1S/C12H16N2O3.ClH/c1-9-8-10(14(15)16)2-3-12(9)17-11-4-6-13-7-5-11;/h2-3,8,11,13H,4-7H2,1H3;1H
